US08648081B2
Stir a mixture of 3-[3-(3,5-Dichloro-4-fluoro-phenyl)-4,4,4-trifluoro-3-hydroxyl-butyryl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid methyl ester (26 g, 53.7 mmol), SOCl2 (12.7 g, 7.8 mL, 0.107 mmol) and pyridine (42.3 g, 0.537 mmol) in anhydrous DCM (300 mL) at room temperature for 3 hours. Concentrate the mixture under vacuum. Purify the residue by silica gel chromatograph (PE:EtOAc 12:1) to afford 3-[3-(3,5-Dichloro-4-fluoro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid methyl ester as a pale yellow solid (25 g, 100%). (m/z): 467 (M+1).

reactant | 3-[3-(3,5-Dichloro-4-fluoro-phenyl)-4,4,4-trifluoro-3-hydroxyl-butyryl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid methyl ester | 53.7 mmol, 26 g | COC(=O)C=1SC(=C2C1CCC2)C(CC(C(F)(F)F)(O)C2=CC(=C(C(=C2)Cl)F)Cl)=O | C19H14Cl2F4O4S
reactant | SOCl2 | 0.107 mmol, 7.8 mL, 12.7 g | O=S(Cl)Cl | Cl2OS
reactant | pyridine | 0.537 mmol, 42.3 g | N1=CC=CC=C1 | C5H5N
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 3-[3-(3,5-Dichloro-4-fluoro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid methyl ester | 25 g, 100% | COC(=O)C=1SC(=C2C1CCC2)C(C=C(C(F)(F)F)C2=CC(=C(C(=C2)Cl)F)Cl)=O | C19H12Cl2F4O3S
